US07371749B2
3-Methyl-2-pyrrolidin-1-ylmethyl-3H-imidazole-4-carboxylic acid methyl ester
2-Chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride (224 mg, 1 mmol) was dissolved in pyrrolidine (2.3 ml, 28 mmol) and stirred at ambient temperature for, the title compound was obtained as light yellow oil 45 min. After evaporation to dryness, the residue is taken up in ethyl acetate and saturated aqueous sodium carbonate (20 ml) and the phases separated. The aqueous phase is extracted twice with ethyl acetate (20 ml each) and the combined organic layers are dryed with magnesium sulfate and evaporated to dryness. Flash chromatography (silica, eluent dichloromethane7methanol 19:1) afforded the title compound as light yellow oil (61% yield). MS: m/e=224(M+H+).

reactant | 2-Chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride | 1 mmol, 224 mg | Cl.COC(=O)C=1N(C(=NC1)CCl)C
reactant | pyrrolidine | 28 mmol, 2.3 ml | N1CCCC1 | C4H9N
product | 3-Methyl-2-pyrrolidin-1-ylmethyl-3H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N(C(=NC1)CN1CCCC1)C | C11H17N3O2
